US08071629B2
Preparation of ethyl 2-(3,5-dichloropyridin-2-yl)cyclopropanecarboxylate
A mixture of 0.485 g of 3,5-dichloro-2-vinylpyridine (0.0014 mol) and 0.15 ml of ethyl diazoacetate (0.00127 mol) are added dropwise to 5 ml of refluxing xylene. The reaction mixture is refluxed for thirty minutes and left at room temperature overnight. After concentration to dryness and purification on silica, 250 mg of essentially pure ethyl 2-(3,5-dichloropyridin-2-yl)cyclopropanecarboxylate (75%) are obtained.

reactant | 3,5-dichloro-2-vinylpyridine | 0.0014 mol, 0.485 g | ClC=1C(=NC=C(C1)Cl)C=C | C7H5Cl2N
reactant | ethyl diazoacetate | 0.00127 mol, 0.15 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 2-(3,5-dichloropyridin-2-yl)cyclopropanecarboxylate | ClC=1C(=NC=C(C1)Cl)C1C(C1)C(=O)OCC | C11H11Cl2NO2
